US03957763
Following the procedure of Example 17, 7-(3-methyl-7-ethyl-2,6-nonadienyloxy)-chromane and peracetic acid are reacted to form 7-(6,7-epoxy-3-methyl-7-ethyl-2-nonenyloxy)-chromane, nD20 = 1.5303.

reactant | 7-(3-methyl-7-ethyl-2,6-nonadienyloxy)-chromane | CC(=CCOC1=CC=C2CCCOC2=C1)CCC=C(CC)CC | C21H30O2
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
product | 7-(6,7-epoxy-3-methyl-7-ethyl-2-nonenyloxy)-chromane | O1C(CCC(=CCOC2=CC=C3CCCOC3=C2)C)C1(CC)CC | C21H30O3
